US09034866B2
Synthesis of (±)-10-(3,4-dihydroxy-3-methylbut-1-yn-1-yl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 2-methylbut-3-yne-1,2-diol to give the titled compound as an off-white solid (30.8 mg, 15%).

reactant | 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F | C12H9BrFN3O2
reactant | 2-methylbut-3-yne-1,2-diol | CC(CO)(C#C)O | C5H8O2
product | (±)-10-(3,4-dihydroxy-3-methylbut-1-yn-1-yl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 30.8 mg, 15% | OC(C#CC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F)(CO)C | C17H16FN3O4
